US06511974B1
(2-Chloro-4-pyrrol-1-yl-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 9's Method 1, employing (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.7 g), 60% sodium hydride in oil (0.3 g, degreased with hexane), pyrrole (0.42 g) and dimethylformamide (25 ml), the title compound (0.60 g) was obtained as an amorphous solid, MS, m/z: 388.2 (M+H)+.

reactant | (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.7 g | ClC1=C(C=CC(=C1)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C19H14ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | pyrrole | 0.42 g | N1C=CC=C1 | C4H5N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (2-Chloro-4-pyrrol-1-yl-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.60 g | ClC1=C(C=CC(=C1)N1C=CC=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H18ClN3O
